US08809335B2
4-ethoxy-3-(6-fluoropyridin-2-yl)-1-trityl-1H-pyrazolo[3,4-d]pyrimidine
4-ethoxy-3-iodo-1-trityl-pyrazolo[3,4-d]pyrimidine (590 mg, 1.11 mmol), 2-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (296.7 mg, 1.33 mmol) and Na2CO3 (1.662 mL of 2 M, 3.324 mmol) were suspended in anhydrous Dioxane (25 mL) and degassed (vacuum/nitrogen cycles×5). Pd[P(tBu)3]2 (56.62 mg, 0.11 mmol) was added and the reaction mixture was degassed again (vacuum/nitrogen cycles×5) and stirred at 60° C. for 3 hours. After this time, the reaction mixture was allowed to cool to ambient temperature. DCM, saturated aqueous Na2CO3 and brine were added and the aqueous layer was extracted with DCM (4×50 mL). The combined organics were dried (Na2SO4), filtered and concentrated in vacuo. The crude mixture was purified by column chromatography (ISCO Companion™, 120 g column, eluting with EtOAc/petroleum ether) to give the sub title compound (139.1 mg, 25% Yield). 1H NMR (400 MHz, DMSO) δ 8.17 (1H, s), 7.77 (1H, m), 7.63 (1H, m), 7.24-7.11 (15H, m), 6.89-6.81 (1H, m), 4.50 (2H, q) and 1.44 (3H, t).

reactant | 4-ethoxy-3-iodo-1-trityl-pyrazolo[3,4-d]pyrimidine | 1.11 mmol, 590 mg | C(C)OC1=C2C(=NC=N1)N(N=C2I)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H21IN4O
reactant | 2-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 1.33 mmol, 296.7 mg | FC1=NC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C11H15BFNO2
reactant | Na2CO3 | 3.324 mmol, 2 M, 1.662 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd[P(tBu)3]2 | 0.11 mmol, 56.62 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 4-ethoxy-3-(6-fluoropyridin-2-yl)-1-trityl-1H-pyrazolo[3,4-d]pyrimidine | 139.1 mg, 25% Yield | C(C)OC1=C2C(=NC=N1)N(N=C2C2=NC(=CC=C2)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H24FN5O
